US05686486
Ethanesulfonic acid (3-(1-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propyl)-phenyl)-amide;
14.75 mg of 3-[1-(3-aminophenyl)propyl]-4 hydroxy-coumarin is dissolved in 1 ml of methylene chloride with 8.1 microliters of pyridine added. To this solution, at room temperature with protection from moisture, is added 5.14 microliters of ethylsulfuryl chloride. The reaction is allowed to stir, at room temperature, for 18 hours. 5 ml of methylene chloride is added to the reaction mixture, the resulting mixture is washed twice with 1 ml of water, and the methylene chloride solution is separated, dried over anhydrous sodium sulfate and evaporated to dryness to yield 28 mg of crude title product. Chromatography over 15 g of silica gel using 5% methanol in chloroform as solvent gives 6.8 mg of pure title product.

reactant | 3-[1-(3-aminophenyl)propyl]-4 hydroxy-coumarin | 14.75 mg | NC=1C=C(C=CC1)C(CC)C=1C(OC2=CC=CC=C2C1O)=O | C18H17NO3
reactant | ethylsulfuryl chloride | 5.14 microliters | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 8.1 microliters | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethanesulfonic acid (3-(1-(4-hydroxy-2-oxo-2H-chromen-3-yl)-propyl)-phenyl)-amide | 6.8 mg | OC1=C(C(OC2=CC=CC=C12)=O)C(CC)C=1C=C(C=CC1)NS(=O)(=O)CC | C20H21NO5S
